US04552696
B. 2-(triphenylmethylthio)ethyl methanesulfonate
To a solution of 2-(triphenylmethylthio)ethanol (2.66 g, 8.30 mmol) in cold (0° C.) dichloromethane (39 mL) kept under a nitrogen atmosphere was added methanesulfonyl chloride (0.704 mL, 9.10 mmol); the resulting mixture was treated dropwise (15 min) with triethylamine (1.34 mL, 9.6 mmol). After stirring for 15 min, the cooling bath was removed and the reaction mixture was stirred for 7 h then washed successively with water (10 mL), 0.5N citric acid (10 mL), water (10 mL), saturated sodium bicarbonate and water. The organic extracts were dried (MgSO4 -MgO) and concentrated under reduced pressure to a thick syrup which crystallized on standing. Trituration of the crystals in ether afforded white solid 2.1 g (63%) mp 95°-8° C.; ir (KBr) νmax : 1580, 1565 (phenyl), 1350, 1175, 1165 cm-1 (sulfonate); 1Hmr (CDCl3): 251 (2H, t, J=6.6 Hz, CH2S), 3.07 (3H, s, CH3SO3), 3.87 (2H, t, J=6.6 Hz, CH2O), 7.34 (15H, m, phenyl).

reactant | 2-(triphenylmethylthio)ethanol | 8.30 mmol, 2.66 g | C1(=CC=CC=C1)C(SCCO)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H20OS
reactant | methanesulfonyl chloride | 9.10 mmol, 0.704 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 9.6 mmol, 1.34 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 39 mL | ClCCl | CH2Cl2
product | 2-(triphenylmethylthio)ethyl methanesulfonate | CS(=O)(=O)OCCSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H22O3S2
